US06242601B1
Under an atmosphere of argon 11.36 g of 3-benzyloxybenzamide were suspended in CH2Cl2 (200 ml) and 9.5 g triethyloxonium fluoroborate in CH2Cl2 (100 ml) were added dropwise on ice cooling. The reaction mixture was then stirred further 20 h at RT until completion of reaction according to TLC analysis (CH2Cl2/MeOH: 15/1). The solid which had formed was filtered off, washed with ether to give the desired ethyl m-benzyloxybenzimidate tetrafluoroborate as white crystals, mp 152°-154° C., which was used without further purification in the next step.

reactant | 3-benzyloxybenzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)N)C=CC1 | C14H13NO2
reactant | triethyloxonium fluoroborate | 9.5 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl m-benzyloxybenzimidate tetrafluoroborate | F[B-](F)(F)F.C(C1=CC=CC=C1)OC=1C=C(C(OCC)=N)C=CC1 | InChI=1S/C16H17NO2.BF4/c1-2-18-16(17)14-9-6-10-15(11-14)19-12-13-7-4-3-5-8-13;2-1(3,4)5/h3-11,17H,2,12H2,1H3;/q;-1
